US07550484B2
COMPOUND 81: Methyl-[4-(3,5,3″,5″-tetramethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-butyl]-amine HBr salt
To a solution of methyl-[4-(3,5,3″,5″-tetramethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-butyl]-amine (168 mg, 0.440 mmol) in MeOH (1 mL) was added a saturated solution of HBr in MeOH (1 mL) according to General Procedure B. COMPOUND 81 was collected as a white solid (240 mg, 82%). 1H NMR (D2O) δ 1.19-1.31 (m, 4H), 1.46-1.56 (m, 2H), 1.65-1.70 (m, 1H), 1.90-1.95 (m, 1H), 2.11 (d, 2H, J=13.0 Hz), 2.22-2.27 (m, 2H), 2.50 (s, 6H), 2.55 (s, 6H), 2.57 (s, 3H), 2.75-2.81 (m, 2H), 4.53 (d, 2H, J=9.1 Hz), 8.26 (s, 2H), 8.51 (s, 2H); 13C NMR (D2O) δ 16.96, 17.56, 20.05, 22.43, 23.84, 32.65, 32.99, 48.80, 52.14, 57.55, 136.00, 137.42, 139.20, 150.10, 151.69; ES-MS nm/z 381 (M+H). Anal Calcd. For C24H36N4.3.0(HBr).2.1(H2O): C, 43.60; H, 6.59; N, 8.47; Br, 36.26. Found: C, 43.62; H, 6.38; N, 8.15; Br, 36.26.

reactant | methyl-[4-(3,5,3″,5″-tetramethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-butyl]-amine | 0.440 mmol, 168 mg | CNCCCCN1C(CCCC1C1=NC=C(C=C1C)C)C1=NC=C(C=C1C)C | C24H36N4
reactant | HBr | Br | BrH
solvent | MeOH | 1 mL | CO | CH4O
solvent | MeOH | 1 mL | CO | CH4O
product | Methyl-[4-(3,5,3″,5″-tetramethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-butyl]-amine HBr salt | Br.CNCCCCN1C(CCCC1C1=NC=C(C=C1C)C)C1=NC=C(C=C1C)C | InChI=1S/C24H36N4.BrH/c1-17-13-19(3)23(26-15-17)21-9-8-10-22(28(21)12-7-6-11-25-5)24-20(4)14-18(2)16-27-24;/h13-16,21-22,25H,6-12H2,1-5H3;1H
